US07238808B2
5-[7-Cyclopropyl-5-(4-trifluoromethyl-phenyl)-pyrazolo[1,5-a]pyrimidin-3-ylethynyl]-pyridine-3-sulfonic acid (2-hydroxy-1-hydroxymethyl-1-methyl-ethyl)-amide
The title compound was prepared from 7-cyclopropyl-3-ethynyl-5-(4-trifluoromethyl-phenyl)-pyrazolo[1,5-a]pyrimidine (example C.7) (82 mg, 0.25 mmol) and 5-bromo-pyridine-3-sulfonic acid (2-hydroxy-1-hydroxymethyl-1-methyl-ethyl)-amide (81 mg, 0.25 mmol) (Example B.4) according to general procedure II. Obtained as a yellow solid (81 mg, 57%). MS (ISP) 572.3 [(M+H)+]; mp 190–191° C.

reactant | 7-cyclopropyl-3-ethynyl-5-(4-trifluoromethyl-phenyl)-pyrazolo[1,5-a]pyrimidine | 0.25 mmol, 82 mg | C1(CC1)C1=CC(=NC=2N1N=CC2C#C)C2=CC=C(C=C2)C(F)(F)F | C18H12F3N3
reactant | 5-bromo-pyridine-3-sulfonic acid (2-hydroxy-1-hydroxymethyl-1-methyl-ethyl)-amide | 0.25 mmol, 81 mg | OCC(C)(CO)NS(=O)(=O)C=1C=NC=C(C1)Br | C9H13BrN2O4S
product | 5-[7-Cyclopropyl-5-(4-trifluoromethyl-phenyl)-pyrazolo[1,5-a]pyrimidin-3-ylethynyl]-pyridine-3-sulfonic acid (2-hydroxy-1-hydroxymethyl-1-methyl-ethyl)-amide | OCC(C)(CO)NS(=O)(=O)C=1C=NC=C(C1)C#CC=1C=NN2C1N=C(C=C2C2CC2)C2=CC=C(C=C2)C(F)(F)F | C27H24F3N5O4S
